US05641784
8-(3-Methyloxycarbonyl-cyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione
2.29 g (5.1 mmol) of 7-benzyl-8-(3-methyloxycarbonyl-cyclopentyl)-1,3-dipropylpurine-2,6-dione are hydrogenated in 40 ml of methanol with the addition of 0.5 g of dry Pearlman catalyst until the uptake of hydrogen has ceased at 20° C. under 5.0 bars. After filtering over kieselguhr the solution is evaporated down and the residue is recrystallised from isopropanol. 1.54 g (83.2% of theory) of the title compound are obtained in the form of colourless crystals, melting point 188°-194° C.

reactant | 7-benzyl-8-(3-methyloxycarbonyl-cyclopentyl)-1,3-dipropylpurine-2,6-dione | 5.1 mmol, 2.29 g | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCC)=O)CCC)C1CC(CC1)C(=O)OC | C25H32N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pearlman catalyst | 0.5 g | [OH-].[OH-].[Pd+2]
product | 8-(3-Methyloxycarbonyl-cyclopentyl)-1,3-dipropyl-7H-purine-2,6-dione | COC(=O)C1CC(CC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C18H26N4O4
